US07875600B2
N-(6-Cyano-5-methylpyridine-2-ylmethyl)-N-methylacetamide
A solution of N-methylacetamide (416 mg, 5.69 mmol) in THF (15 mL) at room temperature was treated with NaH (228 mg, 5.69 mmol), stirred for 15 min, treated with 6-bromomethyl-3-methylpyridine-2-carbonitrile (1.0 g, 4.74 mmol), stirred for 16 h, poured into water (50 mL), extracted with EtOAc (3×15 mL) and the combined organic phase was dried (MgSO4) and concentrated in vacuo to give the title compound (665 mg, 69%) as a yellow oil; NMR δH (400 MHz, CDCl3) 2.15 (3H, s), 2.53 (3H, s), 3.09 (3H, s), 4.65 (2H, s), 7.43 (1H, d, J 8.0 Hz) and 7.61 (1H, d, J 8.0 Hz); M/Z 204 (M+H)+

reactant | N-methylacetamide | 5.69 mmol, 416 mg | CNC(C)=O | C3H7NO
reactant | NaH | 5.69 mmol, 228 mg | [H-].[Na+]
reactant | 6-bromomethyl-3-methylpyridine-2-carbonitrile | 4.74 mmol, 1.0 g | BrCC1=CC=C(C(=N1)C#N)C | C8H7BrN2
reactant | water | 50 mL | O | H2O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | N-(6-Cyano-5-methylpyridine-2-ylmethyl)-N-methylacetamide | 665 mg, 69% | C(#N)C1=C(C=CC(=N1)CN(C(C)=O)C)C | C11H13N3O
